US05053542
Preparation of 4-Bromo-2-Fluoroaniline by Iterative Process
Cycle 1. Methylene chloride, 125 ml, and 32.2 g (0.1 mol) tetrabutylammonium bromide were mixed in a 200-ml, 3-necked roundbottom flask, equipped with a mechanical stirrer, a thermometer, an addition funnel and a water condenser leading to a mineral oil bubbler. Bromine, 16.0 g (0.1 mol), was added to the mixture over 15 minutes at room temperature. The temperature of the mixture rose from 24° C. to 30° C. The contents of the flask were stirred for 30 minutes. 2-Fluoroaniline, 11.1 g (0.1 mol), at room temperature was added to the mixture in one portion. The temperature of the mixture rose to 40° C. The orange solution immediately turned yellowish. After stirring for 15 minutes, the solution turned milky and the temperature was 32° C. After 30 more minutes solids were observed. The solution was filtered and the solids washed with ice-cold methylene chloride until white. On air-drying 9 g of product (Solid I) was obtained. The melting point was >200° C. LC analysis showed only desired product with a trace of impurity. LC analysis of the mother liquor (I) showed that it contained some desired product and some dibrominated compound.

reactant | Bromine | BrBr | Br2
reactant | 2-Fluoroaniline | FC1=C(N)C=CC=C1 | C6H6FN
catalyst | tetrabutylammonium bromide | 0.1 mol, 32.2 g | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | Methylene chloride | C(Cl)Cl | CH2Cl2
product | 4-Bromo-2-Fluoroaniline | BrC1=CC(=C(N)C=C1)F | C6H5BrFN
